US06770667B1
To a suspension of 2,3-dimethylindole-7-carboxylic acid (95 mg) and 3-(1,2-dimethylimidazol-5-yl)aniline (94 mg) in dichloromethane (3 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (144 mg) and 4-dimethylaminopyridine (30 mg). The mixture was stirred at ambient temperature for 18 hours and diluted with dichloromethane. The solution was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by a silica gel column chromatography eluting with 3% methanol in dichloromethane to give N-[3-(1,2-dimethyl-1H-imidazol-5-yl)-phenyl]-2,3-dimethyl-lH-indole-7-carboxamide (73 mg, 40.8%).

reactant | 2,3-dimethylindole-7-carboxylic acid | 95 mg | CC=1NC2=C(C=CC=C2C1C)C(=O)O | C11H11NO2
reactant | 3-(1,2-dimethylimidazol-5-yl)aniline | 94 mg | CN1C(=NC=C1C=1C=C(N)C=CC1)C | C11H13N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 144 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(1,2-dimethyl-1H-imidazol-5-yl)-phenyl]-2,3-dimethyl-lH-indole-7-carboxamide | 73 mg, 40.8% | CN1C(=NC=C1C=1C=C(C=CC1)NC(=O)C=1C=CC=C2C(=C(NC12)C)C)C | C22H22N4O
